US05202330
b) 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-(1-oxopropyl)-2-thioxo-5-pyrimidinecarboxylic acid, methyl ester
1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-(1-oxopropyl)-5-pyrimidinecarboxylic acid, methyl ester (1.6 g., 3.3 mmole) in 20 ml of dichloromethane under argon at room temperature is treated with trifluoroacetic acid (0.75 ml., 1.1 g., 9.7 mmole) and ethanethiol (0.4 ml, 0.33 g, 5.4 mmole). After 3 hours, volatiles are evaporated in vacuo and the residue (solidified) is triturated with isopropyl ether to give 0.95 g. of product, m.p. 167°-171°. TLC(silica gel; ethyl acetate:hexanes, 1:1) Rf =0.50.

reactant | 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-(1-oxopropyl)-5-pyrimidinecarboxylic acid, methyl ester | 3.3 mmole, 1.6 g | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(CC)=O | C24H25N3O6S
reactant | trifluoroacetic acid | 9.7 mmole, 0.75 ml, 1.1 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanethiol | 5.4 mmole, 0.4 ml, 0.33 g | C(C)S | C2H6S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-(1-oxopropyl)-2-thioxo-5-pyrimidinecarboxylic acid, methyl ester | CC1=C(C(N(C(N1)=S)C(CC)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C16H17N3O5S
